US08426411B2
To 2-(5-tosyl-5H-pyrrolo[3,2-b]pyrazin-2-ylamino)acetamide (0.845 g, 2.45 mmol, prepared using E from Preparation #S.1.1 and HCl) under nitrogen was added POCl3 (5.0 mL, 54 mmol). After about 15 min, a reflux condenser was attached and the mixture was warmed to about 100° C. After about 2 h, the solution was allowed to cool to ambient temperature. The mixture was concd under reduced pressure. The residue was slurried in DCM (10 mL) and slowly treated with MeOH (10 mL). The reaction mixture was stirred for about 5 min then concd under reduced pressure. The residue was dissolved in MeOH (20 mL) and then concentrated under reduced pressure. The residue was dissolved in 1,4-dioxane (5 mL) and 2N aqueous HCl (5 mL). The solution was warmed to about 100° C. for about 3 h. The solution was allowed to cool to ambient temperature and the volatiles were removed under reduced pressure. The aqueous mixture was slurried in saturated aqueous NaHCO3/water (1:1, 100 mL) and DCM (50 mL). The solid was collected by filtration, rinsed with water and DCM, and dried to afford 3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-amine (0.343 g, 43%): LC/MS (Table 1, Method n) Rt=0.56 min; MS m/z: 328 (M+H)+.

reactant | 2-(5-tosyl-5H-pyrrolo[3,2-b]pyrazin-2-ylamino)acetamide | 2.45 mmol, 0.845 g | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=NC(=CN=C21)NCC(=O)N | C15H15N5O3S
reactant | POCl3 | 54 mmol, 5.0 mL | O=P(Cl)(Cl)Cl | Cl3OP
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
solvent | MeOH | 20 mL | CO | CH4O
solvent | MeOH | 10 mL | CO | CH4O
product | 3-tosyl-3H-imidazo[1,2-a]pyrrolo[2,3-e]pyrazin-8-amine | 0.343 g, 43% | S(=O)(=O)(C1=CC=C(C)C=C1)N1C=CC2=C1N=CC=1N2C(=CN1)N | C15H13N5O2S
